US08937083B2
To a solution of 1-(pyridin-3-yl)-1H-pyrazol-4-amine (0.1 g, 0.624 mmol) and di-tert-butyl dicarbonate (0.161 ml, 0.693 mmol) in tetrahydrofuran (1.890 ml) and water (0.568 ml) was added dropwise saturated aqueous sodium bicarbonate (0.572 ml, 0.687 mmol). The reaction was stirred at room temperature overnight. The reaction was diluted with water and extracted with ethyl acetate. The combined organic phases were concentrate to give tert-butyl 1-(pyridin-3-yl)-1H-pyrazol-4-ylcarbamate (135 mg, 0.519 mmol, 83%), for which the analytical data was consistent with that reported in Example 13, Method A.

reactant | 1-(pyridin-3-yl)-1H-pyrazol-4-amine | 0.624 mmol, 0.1 g | N1=CC(=CC=C1)N1N=CC(=C1)N | C8H8N4
reactant | di-tert-butyl dicarbonate | 0.693 mmol, 0.161 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 0.687 mmol, 0.572 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1.890 ml | O1CCCC1 | C4H8O
solvent | water | 0.568 ml | O | H2O
product | tert-butyl 1-(pyridin-3-yl)-1H-pyrazol-4-ylcarbamate | 0.519 mmol, 135 mg, 83% | N1=CC(=CC=C1)N1N=CC(=C1)NC(OC(C)(C)C)=O | C13H16N4O2
